US07541365B2
To a cooled (0° C.) solution of hydrogen fluoride (65-70%) in pyridine (4 ml) was added 4-(4-chloro-phenyl)-piperidin-4-ol (500 mg, 2.36 mmol). The resulting solution was stirred at 0° C. for 15 min and then warmed to rt and stirred 1 h. The mixture was slowly poured into a saturated aqueous sodium bicarbonate solution (30 mL) and extracted with methylene chloride (100 ml; ADD SOLVENT AND EXTRACT SLOWLY AND WITH CAUTION). Excess hydrogen fluoride was neutralized with solid sodium carbonate. The organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude residue was purified by silica gel chromatography, eluting with a methylene chloride to methylene chloride/methanol/ammonium hydroxide (8.5/1/0.5) gradient to give 4-(4-Chloro-phenyl)-4-fluoro-piperidine (260 mg, 52%).

reactant | hydrogen fluoride | F | FH
reactant | 4-(4-chloro-phenyl)-piperidin-4-ol | 2.36 mmol, 500 mg | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 4-(4-Chloro-phenyl)-4-fluoro-piperidine | 260 mg, 52% | ClC1=CC=C(C=C1)C1(CCNCC1)F | C11H13ClFN
